US06635759B2
6,7-Dimethoxy-3-nitro-4-trifluoromethyl-2-(1H)-quinolone:
3.5 g of 6,7-dimethoxy-4-trifluoromethyl-2-(1H)-quinolone are nitrated with 50 ml of a semi-concentrated mixture of nitric acid and sulphuric acid under ice cooling. The mixture is heated to room temperature and poured on water. The precipitation formed is cleaned with Flash Chromatography (silica gel, dichloromethane:acetone 9:1). Yield 70%, melting point 270° C., UV λ max 391 nm (DMSO), IR (KBR) CO: 1670cm-1.

reactant | 6,7-dimethoxy-4-trifluoromethyl-2-(1H)-quinolone | 3.5 g | COC=1C=C2C(=CC(NC2=CC1OC)=O)C(F)(F)F | C12H10F3NO3
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
reactant | dichloromethane acetone | ClCCl.CC(=O)C
solvent | DMSO | CS(=O)C | C2H6OS
product | 6,7-Dimethoxy-3-nitro-4-trifluoromethyl-2-(1H)-quinolone | Yield 70% | COC=1C=C2C(=C(C(NC2=CC1OC)=O)[N+](=O)[O-])C(F)(F)F | C12H9F3N2O5
